US08106190B2
Hydrochloride of 1-ethyl-3-[3-(N,N-dimethylamino)propyl]carbodiimide (174 mg) and dimethylaminopyridine (21 mg) were added to a methylene chloride (5 mL) solution of 4-chloro-2-{[(1S*,2S*)-2-pyrrolidin-1-ylcyclohexyl]amino}benzoic acid (220 mg) and 7-amino-1-methyl-3,4-dihydroquinolin-2(1H)-one (100 mg). After stirring the reaction liquid overnight at room temperature, the reaction liquid was concentrated under a reduced pressure. By purifying the residue by silica gel column chromatography (hexane:ethyl acetate, 1:0 to 1:1), 4-chloro-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)-2-{[(1S*,2S*)-2-pyrrolidin-1-ylcyclohexyl]amino}benzamide was obtained as a pale yellow amorphous. By treating this with 4 M hydrogen chloride/ethyl acetate solution, 4-chloro-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)-2-{[(1S*,2S*)-2-pyrrolidin-1-ylcyclohexyl]amino}benzamide hydrochloride (212 mg) was obtained as an amorphous.

reactant | Hydrochloride | Cl | ClH
reactant | 1-ethyl-3-[3-(N,N-dimethylamino)propyl]carbodiimide | 174 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | dimethylaminopyridine | 21 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 4-chloro-2-{[(1S*,2S*)-2-pyrrolidin-1-ylcyclohexyl]amino}benzoic acid | 220 mg | ClC1=CC(=C(C(=O)O)C=C1)N[C@@H]1[C@H](CCCC1)N1CCCC1 | C17H23ClN2O2
reactant | 7-amino-1-methyl-3,4-dihydroquinolin-2(1H)-one | 100 mg | NC1=CC=C2CCC(N(C2=C1)C)=O | C10H12N2O
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)-2-{[(1S*,2S*)-2-pyrrolidin-1-ylcyclohexyl]amino}benzamide | ClC1=CC(=C(C(=O)NC2=CC=C3CCC(N(C3=C2)C)=O)C=C1)N[C@@H]1[C@H](CCCC1)N1CCCC1 | C27H33ClN4O2
